US03984430
5-(4-Benzamidobutyl)-3-methyl-2-thiohydantoin
A solution of Nε-benzoyl-L-lysine methyl ester (26 g) and methyl isothiocyanate (6.75 g) in ethanol (250) was heated under reflux for 12 hours. The solution was saturated with ammonia at 0°C and heated in a bomb at 40°C for 3 days. Evaporation of the solvent gave a gum which was crystallised from isopropyl alcohol. Recrystallisation from iso-propyl alcohol gave the title compound as the quarter isopropyl alcohol solvate 10 g (m.p. 137-8°C). Found: C, 59.4; H, 6.25; N, 13.1. C15H19N3O2S.1/4C3H8O requires C, 59.0; H, 6.6; N, 13.1%.

reactant | Nε-benzoyl-L-lysine methyl ester | 26 g | COC([C@@H](N)CCCCNC(C1=CC=CC=C1)=O)=O | C14H20N2O3
reactant | methyl isothiocyanate | 6.75 g | CN=C=S | C2H3NS
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Benzamidobutyl)-3-methyl-2-thiohydantoin | C(C1=CC=CC=C1)(=O)NCCCCC1C(N(C(N1)=S)C)=O | C15H19N3O2S
